US06586617B1
Synthesis of N,4′-Dimethyl-3′-nitro-p-toluenesulfonanilide (Compound No. 126)
To a suspension of sodium hydride (60%, 0.14 g (3.50 mmol)) in DMF (3.0 ml), 4′-methyl-3′-nitro-p-toluenesulfonanilide (1.00 g (3.26 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, dimethyl sulfate (0.34 ml (3.56 mmol)) was added dropwise. After one hours' stirring at room temperature, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. Diethyl ether was added to the residue, and the solid separated was filtered and washed to give 0.79 g (76%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 3.50 mmol, 0.14 g | [H-].[Na+]
reactant | 4′-methyl-3′-nitro-p-toluenesulfonanilide | 3.26 mmol, 1.00 g | CC1=C(C=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-] | C14H14N2O4S
reactant | dimethyl sulfate | 3.56 mmol, 0.34 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N,4′-Dimethyl-3′-nitro-p-toluenesulfonanilide | 0.79 g, 76% | CN(C1=CC(=C(C=C1)C)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C | C15H16N2O4S
